US07678795B2
3-(3-Fluoro-2-trifluoromethyl-phenyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine
MS (EI): 324.2 (M+), light-yellow solid. Prepared from cyclooctane-1,2-dione, [2-(3-Fluoro-2-trifluoromethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cyclooctane-1,2-dione | C1(C(CCCCCC1)=O)=O | C8H12O2
reactant | [2-(3-Fluoro-2-trifluoromethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C(=CC=C1)F)C(F)(F)F | C11H11F4O4P
reactant | hydrazine monohydrate | O.NN
product | 3-(3-Fluoro-2-trifluoromethyl-phenyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | FC=1C(=C(C=CC1)C1=CC2=C(N=N1)CCCCCC2)C(F)(F)F | C17H16F4N2
